### PR TITLE
ctx-dependent effects

### PR DESCRIPTION
**Pull request by Kaptch**

### CODE REVIEW

File: theories/affine_lang/logrel1.v [hunk 1]
```diff
@@ -69,6 +69,9 @@ Section logrel.
   Variable (P : A → iProp).
   Context `{!NonExpansive P}.
   Local Notation expr_pred := (expr_pred s rs P).
+  Context {HCI : ∀ o : opid (sReifier_ops (gReifiers_sReifier rs)),
+             CtxIndep (gReifiers_sReifier rs)
+               (ITF_solution.IT (sReifier_ops (gReifiers_sReifier rs)) R) o}.
```
Comment (co-dan) [inline theories/affine_lang/logrel1.v]: just `IT` instead of `ITF_solution..`

File: theories/affine_lang/logrel1.v [hunk 2]
```diff
@@ -418,6 +421,142 @@ Arguments interp_ty {_ _ _ _ _ _ _ _ _ _ _ _ _ _ _} τ.
 
 Local Definition rs : gReifiers 2 := gReifiers_cons reify_store (gReifiers_cons input_lang.interp.reify_io gReifiers_nil).
 
+Require Import iris.algebra.gmap.
```
Comment (co-dan) [inline theories/affine_lang/logrel1.v]: move this up if needed

File: theories/affine_lang/logrel1.v [hunk 3]
```diff
@@ -418,6 +421,142 @@ Arguments interp_ty {_ _ _ _ _ _ _ _ _ _ _ _ _ _ _} τ.
...
+
+Local Instance CtxIndepInputLang R `{!Cofe R} (o : opid (sReifier_ops (gReifiers_sReifier rs))) :
+  CtxIndep (gReifiers_sReifier rs)
+    (ITF_solution.IT (sReifier_ops (gReifiers_sReifier rs)) R) o.
```
Comment (co-dan) [inline theories/affine_lang/logrel1.v]: same here, use IT

File: theories/affine_lang/logrel1.v [hunk 4]
```diff
@@ -418,6 +421,142 @@ Arguments interp_ty {_ _ _ _ _ _ _ _ _ _ _ _ _ _ _} τ.
...
+Proof.
```
Comment (co-dan) [inline theories/affine_lang/logrel1.v]: This is quite involved.. I will try to see if this kind of proof can be simplified

File: theories/affine_lang/logrel2.v [hunk 5]
```diff
@@ -456,6 +460,142 @@ End glue.
 
 Local Definition rs : gReifiers 2 := gReifiers_cons reify_store (gReifiers_cons input_lang.interp.reify_io gReifiers_nil).
 
+Require Import iris.algebra.gmap.
```
Comment (co-dan) [inline theories/affine_lang/logrel2.v]: same here, move imports up, use IT

File: theories/gitree/greifiers.v [hunk 6]
```diff
@@ -156,26 +159,43 @@ Section greifiers.
...
+        (y : laterO X)
+        (s1 s2 : sReifier_state r ♯ X)
+        (k : (Outs (sReifier_ops r op) ♯ X -n> laterO X)) :
+      sReifier_re r op (x, s1, k) ≡{m}≡ Some (y, s2) →
+      sReifier_re (rs !!! sR_idx) (subEff_opid op)
+        (subEff_ins x, sR_state s1, ccompose k (subEff_outs ^-1)) ≡{m}≡
+        Some (y, sR_state s2)
+    }.
+
+  Lemma ccompose_id_l {A B : ofe} (f : A -n> B) :
```
Comment (co-dan) [inline theories/gitree/greifiers.v]: move this to prelude

File: theories/gitree/greifiers.v [hunk 7]
```diff
@@ -156,26 +159,43 @@ Section greifiers.
...
+    cid ◎ f ≡ f.
+  Proof.
+    intros x; reflexivity.
+  Qed.
+
+  Lemma ccompose_id_r {A B : ofe} (f : A -n> B) :
```
Comment (co-dan) [inline theories/gitree/greifiers.v]: and this too

File: theories/gitree/greifiers.v [hunk 8]
```diff
@@ -242,40 +266,48 @@ Section greifiers.
...
-    (y : Outs (sReifier_ops _ op) ♯ X)
+    (y : laterO X)
+    (k : (Outs (sReifier_ops r op) ♯ X -n> laterO X))
     (s1 s2 : sReifier_state r ♯ X) :
-        sReifier_re r op (x, s1) ≡ Some (y, s2) ⊢@{iProp}
+        sReifier_re r op (x, s1, k) ≡ Some (y, s2) ⊢@{iProp}
         sReifier_re (rs !!! sR_idx) (subEff_opid op)
-          (subEff_ins x, sR_state s1) ≡
-          Some (subEff_outs y, sR_state s2).
+          (subEff_ins x, sR_state s1, ccompose k (subEff_outs ^-1)) ≡
```
Comment (co-dan) [inline theories/gitree/greifiers.v]: use notation \ccomp for ccompose

File: theories/gitree/greifiers.v [hunk 9]
```diff
@@ -221,17 +243,19 @@ Section greifiers.
...
-    (x : Ins (sReifier_ops _ op) ♯ X) (y : Outs (sReifier_ops _ op) ♯ X)
+    (x : Ins (sReifier_ops _ op) ♯ X) (y : laterO X)
+    (k : (Outs (sReifier_ops r op) ♯ X -n> laterO X))
     (σ σ' : sReifier_state r ♯ X) (rest : gState_rest sR_idx rs ♯ X) :
-    sReifier_re r op (x,σ) ≡ Some (y, σ') →
+    sReifier_re r op (x, σ, k) ≡ Some (y, σ') →
     gReifiers_re rs (subEff_opid op)
-      (subEff_ins x, gState_recomp rest (sR_state σ))
-      ≡ Some (subEff_outs y, gState_recomp rest (sR_state σ')).
+      (subEff_ins x, gState_recomp rest (sR_state σ), ccompose k (subEff_outs ^-1))
```
Comment (co-dan) [inline theories/gitree/greifiers.v]: use notation \ccomp for ccompose

File: theories/input_lang/interp.v [hunk 10]
```diff
@@ -5,13 +5,14 @@ From gitrees.input_lang Require Import lang.
 Notation stateO := (leibnizO state).
 
 Program Definition inputE : opInterp := {|
-  Ins := unitO;
-  Outs := natO;
-|}.
+                                         Ins := unitO;
```
Comment (co-dan) [inline theories/input_lang/interp.v]: untab plese :)

File: theories/input_lang/interp.v [hunk 11]
```diff
@@ -98,7 +124,7 @@ Section weakestpre.
   Proof.
     intros Hs. iIntros "Hs Ha".
     unfold OUTPUT. simpl.
-    iApply (wp_subreify with "Hs").
+    iApply (wp_subreify rs _ _ _ _ _ _ _ with "Hs").
```
Comment (co-dan) [inline theories/input_lang/interp.v]: why do we need underscores?

File: theories/input_lang_callcc/hom.v [hunk 12]
```diff
@@ -0,0 +1,130 @@
...
+
+Section hom.
+  Context {sz : nat}.
+  Context {rs : gReifiers sz}.
+  Context {subR : subReifier reify_io rs}.
+  Notation F := (gReifiers_ops rs).
+  Notation IT := (IT F natO).
+  Notation ITV := (ITV F natO).
+
+  Definition HOM : ofe := @sigO (IT -n> IT) IT_hom.
```
Comment (co-dan) [inline theories/input_lang_callcc/hom.v]: we should discuss this: whether we should use the packaged version everywhere?

File: theories/lang_generic.v [hunk 13]
```diff
@@ -194,7 +194,10 @@ Section kripke_logrel.
     eauto with iFrame.
   Qed.
 
-  Lemma expr_pred_bind f `{!IT_hom f} α Φ Ψ `{!NonExpansive Φ} :
+  Lemma expr_pred_bind f `{!IT_hom f} α Φ Ψ `{!NonExpansive Φ}
+    {G : ∀ o : opid (sReifier_ops (gReifiers_sReifier rs)),
+       CtxIndep (gReifiers_sReifier rs)
+         (ITF_solution.IT (sReifier_ops (gReifiers_sReifier rs)) R) o} :
```
Comment (co-dan) [inline theories/lang_generic.v]: Use IT here instead of ITF_solution

File: theories/lang_generic_sem.v [hunk 14]
```diff
@@ -0,0 +1,104 @@
+From gitrees Require Import prelude.
```
Comment (co-dan) [inline theories/lang_generic_sem.v]: what is the main difference between this file and the other one?

**Review by co-dan — COMMENTED** [review]
i havent looked at most of the call/cc part yet, just the old stuff mostly

File: theories/affine_lang/logrel1.v (hunk 4 above)
Comment (Kaptch) [reply theories/affine_lang/logrel1.v]: resolved by https://github.com/logsem/gitrees/pull/2/commits/e5ebc9a1259299d3d4bf1ecd7c011f287683b60b

**Comment by co-dan** [comment]
I think there was a problem with the latest merge. There are no input_lang_delim files in the repository at the moment. Can you take a look , @vecteurNabla ?

**Comment by dranamme** [comment]
> I think there was a problem with the latest merge. There are no input_lang_delim files in the repository at the moment. Can you take a look , @vecteurNabla ?

Right, I forgot to add the directory when I moved them and merged, it is there now (under theories/examples)
